US05262333
3-(2-aminopropyl)benzyl alcohol
In an oven-dried flask under nitrogen atmosphere was placed 12.15 mL (12.15 mmol) of 1.0 M borane in THF. This was chilled in an ice bath. A solution of 596 mg (2.7 mmol) of 3 (2 nitro 1 propenyl)benzoic acid-methyl ester in 10 mL dry THF was added to the stirred solution via syringe. Solid sodium borohydride (51.3 mg, 1.35 mmol) was then added to the mixture quickly. The mixture was stirred in the ice bath an additional 5 minutes, then at room temperature for 15 minutes The yellow color faded to colorless after about 5 minutes at room temperature. The solution was then heated at a gentle reflux under nitrogen overnight. The reaction mixture was cooled to room temperature and quenched by dropwise addition of 500 mL of water, then reheated at a gentle reflux for 2 hours. The reaction mixture was again cooled to room temperature and filtered and the residue was washed with water. The combined filtrate and washings were then basified to pH 14 with KOH pellets. Methylene chloride was used to extract the product, with the extraction being repeated 3 times (3x5ml). The solution was dried with sodium sulfate, and volatile materials were removed with a rotary evaporator. The crude amine weighed 273 mg (57%). It was carried on without purification.

reactant | borane | 12.15 mmol, 1.0 M, 12.15 mL | B | BH3
reactant | (2 nitro 1 propenyl)benzoic acid-methyl ester | COC(C1=C(C=CC=C1)C=C(C)[N+](=O)[O-])=O | C11H11NO4
reactant | sodium borohydride | 1.35 mmol, 51.3 mg | [BH4-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2-aminopropyl)benzyl alcohol | NC(CC=1C=C(CO)C=CC1)C | C10H15NO
